US09359359B2
To a solution of methyl 2-(2-ethyl-1,3-dioxolan-2-yl)acetate (1 g, 5.75 mmol) in anhydrous THF (40 mL) was added LAH (900 mg, 23.7 mmol) at 0° C. under nitrogen atmosphere, the resulting mixture was stirred at 90° C. overnight. The mixture was cooled to room temperature, and ethyl acetate was added to the mixture. The resulting slurry was filtered and the filtrate was concentrated to dryness. The crude product was purified by silica gel chromatography eluting with DCM/methanol (100:1 to 20:1) to give 2-(2-ethyl-1,3-dioxolan-2-yl)ethanol (233 mg, 27.4%) as yellow oil that was used without purification.

reactant | methyl 2-(2-ethyl-1,3-dioxolan-2-yl)acetate | 5.75 mmol, 1 g | C(C)C1(OCCO1)CC(=O)OC | C8H14O4
reactant | LAH | 23.7 mmol, 900 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(2-ethyl-1,3-dioxolan-2-yl)ethanol | 233 mg, 27.4% | C(C)C1(OCCO1)CCO | C7H14O3
